US05401825
p-Tolyl Urea Styrene:
1,6-Hexyl Urea Styrene Dimer: 1.00 g (8.40 mmol) of p-aminostyrene (99% Tokyo Kasei) was added to a 250 ml round bottom flask containing 100 ml of chloroform. After ten minutes of mixing, 0.706 g (4.20 mmol) of 1,6-diisocyanato hexane (98% Aldrich) was added dropwise. After twenty minutes, a white, pinkish precipitate formed. The precipitate was filtered to remove the reaction liquid, then washed with 20 ml of chloroform resulting in a pale white powder (0.87 g, 51% crude yield, mp=228° C.).

reactant | p-aminostyrene | 8.40 mmol, 1.00 g | NC1=CC=C(C=C)C=C1 | C8H9N
reactant | 1,6-diisocyanato hexane | 4.20 mmol, 0.706 g | N(=C=O)CCCCCCN=C=O | C8H12N2O2
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | p-Tolyl Urea Styrene | C=CC1=CC=CC=C1.C1(=CC=C(C=C1)NC(=O)N)C | InChI=1S/C8H10N2O.C8H8/c1-6-2-4-7(5-3-6)10-8(9)11;1-2-8-6-4-3-5-7-8/h2-5H,1H3,(H3,9,10,11);2-7H,1H2
